US05772990
1.5 g of 2-amino-4-butylamino-6-chloropyrimidine 3-oxide are placed in 10 ml of ethanol. 5 ml of dimethyl-amine are added as 33% solution in ethanol. The reaction mixture is refluxed for 4 hours and is then evaporated to dryness. The precipitate obtained is taken up in 20 ml of water. The pH is adjusted to 8 by adding sodium hydroxide. The mixture is extracted with 3×50 ml of butanol. The butanol phase is evaporated to dryness. The precipitate is recrystallized from 10 ml of acetonitrile. 610 mg of 2-amino-4-butylamino-6-dimethylaminopyrimidine 3-oxide are obtained.

reactant | 2-amino-4-butylamino-6-chloropyrimidine 3-oxide | 1.5 g | NC1=NC(=CC(=[N+]1[O-])NCCCC)Cl | C8H13ClN4O
reactant | dimethyl-amine | 5 ml | CNC | C2H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-amino-4-butylamino-6-dimethylaminopyrimidine 3-oxide | 610 mg, Yield=39% | NC1=NC(=CC(=[N+]1[O-])NCCCC)N(C)C | C10H19N5O
